US07960422B2
(1R)-1-[2-(3-Methylphenyl)-2H-tetrazol-5-yl]ethanol
Lithium hydroxide monohydrate (16.68 g, 400 mmol) was added to a stirred solution of (1R)-1-[2-(3-methylphenyl)-2H-tetrazol-5-yl]ethyl acetate (46.6 g, 190 mmol) in tetrahydrofuran/water (1:1, 750 mL). After 3 hour reaction time the mixture was concentrated to half volume. Brine (100 mL) was added and the mixture was extracted with ethyl acetate (3×100 mL). The combined organic layer was dried over sodium sulfate, filtered and concentrated to give the title product (38.18 g, 99%).

reactant | Lithium hydroxide monohydrate | 400 mmol, 16.68 g | O.[OH-].[Li+]
reactant | (1R)-1-[2-(3-methylphenyl)-2H-tetrazol-5-yl]ethyl acetate | 190 mmol, 46.6 g | C(C)(=O)O[C@H](C)C=1N=NN(N1)C1=CC(=CC=C1)C | C12H14N4O2
solvent | tetrahydrofuran water | 750 mL | O1CCCC1.O
product | (1R)-1-[2-(3-Methylphenyl)-2H-tetrazol-5-yl]ethanol | 38.18 g, 99% | CC=1C=C(C=CC1)N1N=C(N=N1)[C@@H](C)O | C10H12N4O
